US07582761B2
(a) 1-(5-Bromo-3-trifluoromethyl-pyridin-2-yl)-piperazine
To a solution of 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine (8 g, 34.6 mmol, Oakwood) in dichloromethane (230 mL) was added dropwise bromine (3.92 mL, 76.12 mmol, Aldrich) with stirring at room temperature. The resulting mixture was stirred at room temperature for 16 h and the precipitate was filtered, washed with EtOAc (2×100 mL) and dried in vacuo to give the title compound as a yellow solid, which was used in the next step without additional purification. MS (ESI, positive ion) m/z: 310 (M+1).

reactant | 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine | 34.6 mmol, 8 g | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | bromine | 76.12 mmol, 3.92 mL | BrBr | Br2
solvent | dichloromethane | 230 mL | ClCCl | CH2Cl2
product | 1-(5-Bromo-3-trifluoromethyl-pyridin-2-yl)-piperazine | BrC=1C=C(C(=NC1)N1CCNCC1)C(F)(F)F | C10H11BrF3N3
